US09120804B2
{4-[2-(2-methyl-1H-benzoimidazol-5-ylamino)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-phenyl}-morpholin-4-yl-methanone(“C48”)
[4-(2-Amino-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-phenyl]-morpholin-4-yl-methanone (see “C41”, 5-bromo-2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazole (1.1 eq.), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl]2-(2-aminoethyl)phenyl)Pd(II) (0.03 eq), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl (0.03 eq) are dissolved in dry t-butanol under nitrogene, before lithium bis(trimethylsilyl)amide, (3 eq., 20% (ca 1.06M) solution in THF/ethylbenzene) is added. The resulting mixture is heated to 110° C. for 1 h. Work-up as described in general procedure 3 gives the SEM-protected intermediate. (4-{2-[2-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-5-ylamino]-[1,2,4]triazolo[1,5-a]pyrazin-8-yl}-phenyl)-morpholin-4-yl-methanone is dissolved in ethanol. Concentrated HCl is added and the reaction mixture is heated to 65° C. for 4 h and monitored by LCMS. Upon completion, the mixture is neutralized with saturated NaHCO3-solution and the layers are separated, the aqueous phase is 3 times extracted with DCM. The combined organic phases are dried with Na2SO4 and concentrated. Purification gives the title compound as a solid.

reactant | [4-(2-Amino-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-phenyl]-morpholin-4-yl-methanone | 1.1 eq. | NC1=NN2C(C(=NC=C2)C2=CC=C(C=C2)C(=O)N2CCOCC2)=N1 | C16H16N6O2
reactant | 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl | 0.03 eq | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | (4-{2-[2-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-5-ylamino]-[1,2,4]triazolo[1,5-a]pyrazin-8-yl}-phenyl)-morpholin-4-yl-methanone | CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)NC2=NN1C(C(=NC=C1)C1=CC=C(C=C1)C(=O)N1CCOCC1)=N2 | C30H36N8O3Si
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF ethylbenzene | C1CCOC1.C(C)C1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | {4-[2-(2-methyl-1H-benzoimidazol-5-ylamino)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-phenyl}-morpholin-4-yl-methanone | CC1=NC2=C(N1)C=CC(=C2)NC2=NN1C(C(=NC=C1)C1=CC=C(C=C1)C(=O)N1CCOCC1)=N2 | C24H22N8O2
